US06200982B1
A mixture of 2-(4-methoxyphenyl)-3-oxo-3-(pyridin-4-yl)propionic acid methyl ester (14.7 g), sodium chloride (6.0 g) and water (1.9 cm3) in dimethyl sulphoxide (200 cm3) was stirred at 150° C. for 2 hours. The solution was cooled to room temperature, poured into water (600 cm3) and extracted with ethyl acetate-diethyl ether (1:1; 2×400 cm3). The extracts were dried (magnesium sulphate), filtered and concentrated to give 2-(4-methoxyphenyl)-1-(pyridin-4-yl)ethanone as a brown solid (10.2 g; 87%). δH (250 MHz; CDCl3) 3.79 (3 H, s, OCH3), 4.44 [2 H, s, C(O)CH2Ar], 6.88 (2 H, d, J 9, methoxyphenyl H-2), 7.16 (2 H, d, J 9, methoxyphenyl H-3), 7.77 (2 H, d, J 6, pyridyl H-3) and 8.80 (2 H, d, J 6, pyridyl H-2).

reactant | 2-(4-methoxyphenyl)-3-oxo-3-(pyridin-4-yl)propionic acid methyl ester | 14.7 g | COC(C(C(C1=CC=NC=C1)=O)C1=CC=C(C=C1)OC)=O | C16H15NO4
reactant | sodium chloride | 6.0 g | [Cl-].[Na+]
reactant | water | 1.9 cm3 | O | H2O
reactant | water | 600 cm3 | O | H2O
solvent | dimethyl sulphoxide | 200 cm3 | CS(=O)C | C2H6OS
product | 2-(4-methoxyphenyl)-1-(pyridin-4-yl)ethanone | COC1=CC=C(C=C1)CC(=O)C1=CC=NC=C1 | C14H13NO2
